US05231183
(E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)methylamine hydrochloride
By using 104 ml (3.02 mol) of 40% methylamine aqueous solution instead of n-propylamine, 85 ml of tetrahydrofuran, 9.10 ml (98.8 mmol) of 1,3-dichloropropene (E/Z=9/1), 950 mg (5 mmol) of copper (I) iodide, 355 mg (2 mmol) of palladium chloride, 1.05 g (4 mmol) of triphenylphosphine and 15.0 ml (0.121 mol) of tert-butylacetylene, the treatment was conducted in the same manner as in Example 1 to obtain 12.9 g (yield: 70%) of the above identified compound as off-white crystalline powder.

reactant | methylamine | 3.02 mol, 104 ml | CN | CH5N
reactant | 1,3-dichloropropene | 98.8 mmol, 9.10 ml | ClC=CCCl | C3H4Cl2
reactant | triphenylphosphine | 4 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butylacetylene | 0.121 mol, 15.0 ml | C(C)(C)(C)C#C | C6H10
catalyst | copper (I) iodide | 5 mmol, 950 mg | [Cu]I
catalyst | palladium chloride | 2 mmol, 355 mg | [Pd](Cl)Cl
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
product | (E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)methylamine hydrochloride | yield: 70% | Cl.CC(C#C/C=C/CNC)(C)C | InChI=1S/C10H17N.ClH/c1-10(2,3)8-6-5-7-9-11-4;/h5,7,11H,9H2,1-4H3;1H/b7-5+;
